US08003645B2
(3A) 2-methyl-4-chloro-6-(3-hydroxyphenylamino)-pyrimidine
4,6-dichloro-2-methylpyrimidine (1.63 g, 10.0 mmol) prepared based on the method described in Production Example 2A above using 2-methyl-1H-pyrimidine-4,6-dione instead of the 2-ethyl-1H-pyrimidine-4,6-dione, was slowly added to a 2-ethoxyethanol (5.0 mL) solution of 3-aminophenol (1.09 g, 10.0 mmol) and the reaction mixture heated for 4 hours at 130° C. The reaction was monitored by thin layer chromatography and, following the end of the reaction, the reaction mixture was cooled to room temperature and the precipitated white powder filtered off. The crude product filtered off was used in the subsequent reaction without further purification (1.76 g, crude yield 75%).

reactant | 4,6-dichloro-2-methylpyrimidine | 10.0 mmol, 1.63 g | ClC1=NC(=NC(=C1)Cl)C | C5H4Cl2N2
reactant | 2-methyl-1H-pyrimidine-4,6-dione | CC=1NC(CC(N1)=O)=O | C5H6N2O2
reactant | 2-ethoxyethanol | 5.0 mL | C(C)OCCO | C4H10O2
reactant | 3-aminophenol | 10.0 mmol, 1.09 g | NC=1C=C(C=CC1)O | C6H7NO
product | 2-methyl-4-chloro-6-(3-hydroxyphenylamino)-pyrimidine | CC1=NC(=CC(=N1)Cl)NC1=CC(=CC=C1)O | C11H10ClN3O
